US04647560
7-Chloro-5-phenyl-1'-benzyloxycarbonyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one
10 g (0.029 mole) of a 50% strength solution of benzyl chloroformate in toluene are added to a mixture of 4.0 g (0.0093 mole) of 7-chloro-5-phenyl-1'-benzyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2-(3H)-one and 2.4 g (0.029 mole) of finely powdered NaHCO3 in 80 ml of absolute chloroform. The reaction mixture is boiled for 3 hours, with reflux cooling. It is then poured onto ice and the organic phase is separated off and washed twice with 10% strength NaHCO3 solution. After drying over Na2SO4, the mixture is filtered and the solvent is evaporated off. A pale brown-colored remains, and is crystallized with petroleum ether. The compound is filtered off with suction, washed with petroleum ether and dried at 60° C. in vacuo.

reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 7-chloro-5-phenyl-1'-benzyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2-(3H)-one | 0.0093 mole, 4.0 g | ClC=1C=CC2=C(C(=NC3(CCN(CC3)CC3=CC=CC=C3)C(N2)=O)C2=CC=CC=C2)C1 | C26H24ClN3O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-Chloro-5-phenyl-1'-benzyloxycarbonyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one | ClC=1C=CC2=C(C(=NC3(CCN(CC3)C(=O)OCC3=CC=CC=C3)C(N2)=O)C2=CC=CC=C2)C1 | C27H24ClN3O3
